US07125865B2
Preparation of 7-propyl-3-(trifluoromethyl)-6-(3-bromopropyloxy)-1,2-benzisoxazole.
To a DMF solution (50 mL) of 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole as prepared in Example 4 step 2 (5 grams, 20.4 mmol) was added 1,3-dibromopropane (10 mL, 98.5 mmol), followed by cesium carbonate (10 grams, 30.7 mmol). The mixture was stirred at room temperature overnight. After aqueous ether work-up and silica gel chromatography (hexanes: 2.5% ethyl acetate), the title compound was obtained.

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C11H10F3NO2
reactant | 1,3-dibromopropane | 98.5 mmol, 10 mL | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 30.7 mmol, 10 grams | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 7-propyl-3-(trifluoromethyl)-6-(3-bromopropyloxy)-1,2-benzisoxazole | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)OCCCBr | C14H15BrF3NO2
